US05157026
To a cooled (-78° C.) stirred solution of 2-propyl-6-bromo-7-methylimidazo[4,5-b]pyridine (540 mg, 2.15 mmol) in THF (20 mL) was added tert-butyl-lithium (4.40 mL, 1.7M/pentane) over 30 seconds After 45 minutes, dimethylformamide (0.665 mL) was added and after 10 additional minutes the reaction was warmed to RT and quenched with 20% aqueous 4 NH4Cl. Extractive workup EtOAc (4×10 mL) and purification (SiO2, 4% MeOH/EtOAc) gave 2-propyl-7-methylimidazo[4,5-b]pyridine-6-carboxaldehyde (350 mg). To a stirred, cooled (0° C.) methanolic (15 mL) solution of the aldehyde (300 mg) was added NaBH4 (84 mg). After 30 minutes HOAc (0.1 mL) was added, the mixture was warmed (RT), concentrated, and purified (SiO2, 10% MeOH/CH2Cl2) to give 190 mg of 6-hydroxymethyl-7-methyl-2-propylimidazo[4,5-b]pyridineas an oil. The title compound was prepared by using a similar method to that described in Example 7, Part B.

reactant | 2-propyl-6-bromo-7-methylimidazo[4,5-b]pyridine | 2.15 mmol, 540 mg | C(CC)C=1NC=2C(=NC=C(C2C)Br)N1 | C10H12BrN3
reactant | tert-butyl-lithium | 1.7M, 4.40 mL | C(C)(C)(C)[Li]
reactant | dimethylformamide | 0.665 mL | CN(C=O)C | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-propyl-7-methylimidazo[4,5-b]pyridine-6-carboxaldehyde | 350 mg | C(CC)C=1N=C2C(=NC=C(C2C)C=O)N1 | C11H13N3O
